US08614201B2
Intermediate 44: 6-(4-Trifluoromethyl-phenyl)-pyrimidine-4-carbonitrile
Nitrogen gas was bubbled through a suspension of 4,6-dichloropyrimidine (10.0 g, 67.1 mmol), 4-(trifluoromethyl)phenylboronic acid (12.7 g, 67.1 mmol) and K3PO4 (28.5 g, 134.2 mmol) in dimethoxyethane (280 mL) and H2O (70 mL) for 30 minutes. Tetrakis(triphenylphosphine)-palladium (3.99 g, 3.4 mmol) was added and the reaction mixture was heated to 90° C. for 24 hours. The reaction mixture was cooled to rt, H2O (200 mL) was added and the resulting mixture was extracted with EtOAc (2×100 mL). The organic layers were combined, washed with brine (2×50 mL), dried with Na2SO4, filtered and purified by flash column chromatography (100% CH2Cl2) to provide the desire product as an inseparable ˜3:1 mixture of the desired and bisarylated products (10.37 g, 60%). This mixture material was advanced without further purification. The mixture (1.4 g, 3.9 mmol (corrected for impurity) was taken up in acetonitrile (15 mL) and tetraethylammonium cyanide (1.2 g, 7.7 mmol) and triethylamine (0.78 g, 7.7 mmol) were added and the reaction mixture was heated to 80° C. for 1 hr. The reaction mixture was cooled to rt, taken up in CH2Cl2 (100 mL), washed with H2O (2×20 mL), dried with Na2SO4, filtered, concentrated and the resulting oil was purified by flash column chromatography (100% CH2Cl2) to provide the desired product (0.49 g, 50%). 1H NMR (500 MHz, CDCl3) δ 9.44 (d, J=1.4, 1H), 8.27 (d, J=8.1, 2H), 8.10 (d, J=1.4, 1H), 7.84 (d, J=10.2, 2H).

reactant | 4,6-dichloropyrimidine | 67.1 mmol, 10.0 g | ClC1=NC=NC(=C1)Cl | C4H2Cl2N2
reactant | 4-(trifluoromethyl)phenylboronic acid | 67.1 mmol, 12.7 g | FC(C1=CC=C(C=C1)B(O)O)(F)F | C7H6BF3O2
reactant | K3PO4 | 134.2 mmol, 28.5 g | [O-]P(=O)([O-])[O-].[K+].[K+].[K+]
reactant | triethylamine | 7.7 mmol, 0.78 g | C(C)N(CC)CC | C6H15N
solvent | dimethoxyethane | 280 mL | C(OC)COC | C4H10O2
solvent | H2O | 70 mL | O | H2O
catalyst | tetraethylammonium cyanide | 7.7 mmol, 1.2 g | [C-]#N.C(C)[N+](CC)(CC)CC
solvent | CH2Cl2 | 100 mL | C(Cl)Cl | CH2Cl2
catalyst | Tetrakis(triphenylphosphine)-palladium | 3.4 mmol, 3.99 g | [Pd].C1(=CC=CC=C1)P(C1=CC=CC=C1)C1=CC=CC=C1.C1(=CC=CC=C1)P(C1=CC=CC=C1)C1=CC=CC=C1.C1(=CC=CC=C1)P(C1=CC=CC=C1)C1=CC=CC=C1.C1(=CC=CC=C1)P(C1=CC=CC=C1)C1=CC=CC=C1
solvent | H2O | 200 mL | O | H2O
product | 6-(4-Trifluoromethyl-phenyl)-pyrimidine-4-carbonitrile | 0.49 g, 50% | FC(C1=CC=C(C=C1)C1=CC(=NC=N1)C#N)(F)F | C12H6F3N3
